US08461189B2
Di-tert-butyl(3-nitro-6-phenylpyridin-2-yl)imidodicarbonate
A mixture of di-tert-butyl(6-chloro-3-nitropyridin-2-yl)imidodicarbonate (700 mg, 1.87 mmol), phenylboronic acid (274 mg, 2.25 mmol) and tetrakistriphenylphosphine palladium (217 mg, 0.187 mmol) were blanketed with argon and taken up in THF (15.0 mL) and 2M aq. Na2CO3 (3.74 mL). The suspension was purged with bubbling argon for 20 min, then the reaction was sealed and heated via microwave to 120° C. for 2 h. The reaction was cooled, diluted with EtOAc and filtered through celite. The filtrate was washed with water, brine, dried (MgSO4) and concentrated to afford material purified via MPLC, silica cartridge, 5-20% EtOAc in heptanes to afford the product as a light yellow solid. 1H NMR (DMSO-d6, 600 MHz) d 8.68 (d, J=8.5 Hz, 1H), 8.29 (d, J=8.5 Hz, 1H), 8.16-8.12 (m, 2H), 7.57-7.54 (m, 3H), 1.35 (s, 18H); MS cal'd 438 (M+Na)+, exp 438 (M+Na)+.

reactant | di-tert-butyl(6-chloro-3-nitropyridin-2-yl)imidodicarbonate | 1.87 mmol, 700 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC(=CC=C1[N+](=O)[O-])Cl | C15H20ClN3O6
reactant | phenylboronic acid | 2.25 mmol, 274 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
solvent | Na2CO3 | 2M, 3.74 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | Di-tert-butyl(3-nitro-6-phenylpyridin-2-yl)imidodicarbonate | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC(=CC=C1[N+](=O)[O-])C1=CC=CC=C1 | C21H25N3O6
